US06933311B2
N-(4-tert-butylbenzyl)-N′-(7-methyl-1H-indazol-4-yl)urea
2,2,2-Trichloro-N-(7-methyl-1H-indazol-4-yl)acetamide (72 mg, 0.25 mmol), 4-tert-butylbenzylamine (55 mg, 0.34 mmol), and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (0.09 mL, 0.60 mmol) were combined in CH3CN (6 mL) and refluxed overnight. The mixture was allowed to cool to ambient temperature and was concentrated under reduced pressure. The residue was taken up in ethyl acetate and washed twice with saturated aqueous NH4Cl solution. The organic layer was dried (Na2SO4), filtered, and the filtrate was concentrated under reduced pressure. The residue was triturated with ethyl acetate to provide the title compound. The corresponding hydrochloride salt was prepared with methanolic HCl. 1H NMR (300 MHz, d6-DMSO) δ 12.90 (br s, 1H), 7.94 (d, J=1.3 Hz, 1H), 7.91 (s, 1H), 7.47 (m, 2H), 7.37 (m, 2H), 7.25 (m, 2H), 6.84 (t, J=5.8 Hz, 1H), 4.26 (d, J=5.7 Hz, 2H), 2.35 (s, 3H), 1.27 (s, 9H); MS (ESI+) m/z 337 (M+H)+.

reactant | 2,2,2-Trichloro-N-(7-methyl-1H-indazol-4-yl)acetamide | 0.25 mmol, 72 mg | ClC(C(=O)NC1=C2C=NNC2=C(C=C1)C)(Cl)Cl | C10H8Cl3N3O
reactant | 4-tert-butylbenzylamine | 0.34 mmol, 55 mg | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.60 mmol, 0.09 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | CH3CN | 6 mL | CC#N | C2H3N
product | N-(4-tert-butylbenzyl)-N′-(7-methyl-1H-indazol-4-yl)urea | C(C)(C)(C)C1=CC=C(CNC(=O)NC2=C3C=NNC3=C(C=C2)C)C=C1 | C20H24N4O
